US08754069B2
Preparation of 4-(((1S,3aS,5aR,5bR,7aR,9S,11aR,13aR,13bR)-3a-((2-(1,1-dioxido-4-thiomorpholinyl)ethyl)amino)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
A mixture of 4-(((1R,3aS,5aR,5bR,7aR,9S,11aR,13aR,13bR)-3a-((2-(1,1-dioxido-4-thiomorpholinyl)ethyl)amino)-1-isopropenyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid (10 mg, 0.014 mmol) and 10% palladium on carbon (14.84 mg, 0.014 mmol) in methanol (5 mL) was stirred at 20° C. for 18 h under hydrogen at 40 psi. The reaction mixture was filtered to remove the catalyst and the solution was purified by reverse phase prep HPLC to provide the title compound as a white solid (4.1 mg, 39%). LCMS: m/e 719.53 (M+H)+, 2.41 min (method 1). 1H NMR (500 MHz, Acetic) δ 4.58 (dd, J=10.5, 5.6 Hz, 1H), 3.43-3.36 (m, 1H), 3.34-3.19 (m, 6H), 3.18-3.01 (m, 5H), 2.80-2.61 (m, 2H), 2.27-0.89 (m, 26H), 1.33 (s, 3H), 1.32 (s, 3H), 1.23 (s, 3H), 1.09 (s, 3H), 0.98 (s, 3H), 0.93 (d, J=6.7 Hz, 3H), 0.90 (s, 6H), 0.84 (d, J=6.7 Hz, 3H).

reactant | 4-(((1R,3aS,5aR,5bR,7aR,9S,11aR,13aR,13bR)-3a-((2-(1,1-dioxido-4-thiomorpholinyl)ethyl)amino)-1-isopropenyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 0.014 mmol, 10 mg | O=S1(CCN(CC1)CCN[C@]12[C@@H]([C@H]3CCC4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)[C@@H](CC2)C(=C)C)=O | C41H68N2O6S
catalyst | palladium on carbon | 0.014 mmol, 14.84 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 4-(((1S,3aS,5aR,5bR,7aR,9S,11aR,13aR,13bR)-3a-((2-(1,1-dioxido-4-thiomorpholinyl)ethyl)amino)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 4.1 mg, 39% | O=S1(CCN(CC1)CCN[C@]12[C@@H]([C@H]3CCC4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)[C@@H](CC2)C(C)C)=O | C41H70N2O6S
